US05925661
A) 4-Amino-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
4-Nitro-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid is described in Chem. Pharm. Bull., 1984, 32, 3968. The hydrogenation of 1.48 g of this nitro derivative is performed in methanol in the presence of Raney® nickel. After 4 hours with stirring, the catalyst is filtered off, the mixture is evaporated to dryness and the residue is taken up with ether and filtered off to obtain 1 g of the expected product. m.p.=180° C. (dec.).

reactant | 4-Nitro-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | [N+](=O)([O-])C1=CC=C(C=2CCCCC12)C(=O)O | C11H11NO4
solvent | methanol | CO | CH4O
catalyst | Raney® nickel | [Ni] | Ni
product | 4-Amino-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 1 g | NC1=CC=C(C=2CCCCC12)C(=O)O | C11H13NO2
